US04288437
(E)-2-{[(Ethyl)amino]-(2-ethyl-phenyl)methylene}-benzo[b]-thiophen-3(2H)-one
Prepared as in Example 1 from 2-(2-ethyl-benzoyl)benzo-[b]thiophen-3-ol, phosphorus(V) chloride and an aqueous 25% ethylamine solution with a yield of 2% of theory. M.p. 76°-77° C. (diisopropyl ether/petroleum ether 1:2).

reactant | 2-(2-ethyl-benzoyl)benzo-[b]thiophen-3-ol | C(C)C1=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=CC=C1 | C17H14O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethylamine | C(C)N | C2H7N
product | (E)-2-{[(Ethyl)amino]-(2-ethyl-phenyl)methylene}-benzo[b]-thiophen-3(2H)-one | yield of 2% | C(C)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=C(C=CC=C2)CC | C19H19NOS
